US09260425B2
Following the Suzuki coupling procedure in Example 172, (R)-tert-butyl 1-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperidin-3-ylcarbamate and 3-chloro-5-(1-methyl-1H-pyrazol-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine were reacted to give tert-butyl (3R)-1-(3-(5-(1-methyl-1H-pyrazol-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazo-lo[3,4-c]pyridin-3-yl)phenyl)piperidin-3-ylcarbamate as a solid (60%). 1H NMR (400 MHz, CDCl3) δ 9.12 (s, 1H), 7.97 (s, 1H), 7.95 (s, 1H), 7.93 (s, 1H), 7.34 (t, J=7.8 Hz, 1H), 7.26 (s, 1H), 7.19 (s, 1H), 6.73 (d, J=8.4 Hz, 1H), 5.90-5.83 (m, 1H), 4.09-4.00 (m, 2H), 3.97 (s, 3H), 3.88-3.76 (m, 2H), 3.67 (s, 1H), 3.52 (s, 1H), 3.17 (s, 1H), 3.03 (s, 1H), 2.64-2.52 (m, 1H), 2.17 (d, J=10.1 Hz, 2H), 2.09-1.99 (m, 1H), 1.84-1.70 (m, 5H), 1.65-1.54 (m, 1H), 1.41 (s, 9H). LC/MS: m/z 558.2 [M+1].

reactant | (R)-tert-butyl 1-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperidin-3-ylcarbamate | CC1(OB(OC1(C)C)C=1C=C(C=CC1)N1C[C@@H](CCC1)NC(OC(C)(C)C)=O)C | C22H35BN2O4
reactant | 3-chloro-5-(1-methyl-1H-pyrazol-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine | ClC1=NN(C2=CN=C(C=C21)C=2C=NN(C2)C)C2OCCCC2 | C15H16ClN5O
product | tert-butyl (3R)-1-(3-(5-(1-methyl-1H-pyrazol-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazo-lo[3,4-c]pyridin-3-yl)phenyl)piperidin-3-ylcarbamate | 60% | CN1N=CC(=C1)C=1C=C2C(=CN1)N(N=C2C=2C=C(C=CC2)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O)C2OCCCC2 | C31H39N7O3
